US08030305B2
4-(6-Thiazol-2-yl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-phenol
3-Chloro-6-thiazol-2-yl-pyridazine (20 mg, 0.10 mmol) and (4-Hydroxy-phenyl)-acetic acid hydrazide (20 mg, 0.12 mmol) were combined in butanol (5 mL), fitted with water filled condenser and heated to 120° C. overnight. The reaction was concentrated in vacuo followed by purification by HPLC (10-80% CH3CN over 25 min) resulting in the title compound (11.5 mg, 37%) as a white solid.

reactant | 3-Chloro-6-thiazol-2-yl-pyridazine | 0.10 mmol, 20 mg | ClC=1N=NC(=CC1)C=1SC=CN1 | C7H4ClN3S
reactant | (4-Hydroxy-phenyl)-acetic acid hydrazide | 0.12 mmol, 20 mg | OC1=CC=C(C=C1)CC(=O)NN | C8H10N2O2
solvent | butanol | 5 mL | C(CCC)O | C4H10O
product | 4-(6-Thiazol-2-yl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-phenol | 11.5 mg, 37% | S1C(=NC=C1)C=1C=CC=2N(N1)C(=NN2)CC2=CC=C(C=C2)O | C15H11N5OS
